US08124649B2
To 4-(5-((5-chloro-2-oxoindolin-3-ylidene)methyl)furan-2-yl)-3-fluorobenzoic acid (40 mg, 0.104 mmol) in DMF was added HBTU (60 mg, 0.157 mmol) and DIEA (55 μL, 0.313 mmol). The mixture was stirred at room temperature then was added 1-methylhomopiperazine (16 μL, 0.125 mmol) and allowed to stir at room temperature. The solid formed was isolated by filtration and purified by HPLC to yield 5-chloro-3-((5-(2-fluoro-4-(4-methyl-1,4-diazepane-1-carbonyl)phenyl)furan-2-yl)methylene)indolin-2-one. LCMS (M+1=480).

reactant | 4-(5-((5-chloro-2-oxoindolin-3-ylidene)methyl)furan-2-yl)-3-fluorobenzoic acid | 0.104 mmol, 40 mg | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=C(O1)C1=C(C=C(C(=O)O)C=C1)F | C20H11ClFNO4
reactant | HBTU | 0.157 mmol, 60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.313 mmol, 55 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methylhomopiperazine | 0.125 mmol, 16 μL | CN1CCNCCC1 | C6H14N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloro-3-((5-(2-fluoro-4-(4-methyl-1,4-diazepane-1-carbonyl)phenyl)furan-2-yl)methylene)indolin-2-one | ClC=1C=C2C(C(NC2=CC1)=O)=CC=1OC(=CC1)C1=C(C=C(C=C1)C(=O)N1CCN(CCC1)C)F | C26H23ClFN3O3
